US09034882B2
To a solution of methyl 2-(7-(4,4-dimethylpiperidin-1-yl)-5-methyl-2-phenyl[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)acetate (106 mg, 0.269 mmol) in anhydrous THF (5 ml) at −78° C. was added dropwise KHMDS (0.808 mL, 0.404 mmol) in toluene. Reaction mixture was stirred at −78° C. for 30 min and to this was added dropwise 3-phenyl-2-(phenylsulfonyl)-1,2-oxaziridine (106 mg, 0.404 mmol) in THF (2 mL) and the contents were stirred at −78° C. for 30 min and allowed slowly to warm to room temperature, then quenched with a drop of saturated ammonium chloride solution. Evaporated to remove the solvent. Purified by prep HPLC to afford methyl 2-(7-(4,4-dimethylpiperidin-1-yl)-5-methyl-2-phenyl-[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)-2-hydroxyacetate (56 mg, 0.134 mmol, 49.8% yield) as white solid. 1H-NMR (500 MHz, CDCl3) δ 1.15 (6 H, s), 1.69-1.75 (4 H, m), 2.62 (3 H, s), 3.77-3.79 (2 H, m), 3.81-3.83 (2 H, m), 3.85 (3 H, s), 5.49 (1 H, s), 7.56-7.60 (3 H, m), 8.20-8.22 (2 H, m).

reactant | methyl 2-(7-(4,4-dimethylpiperidin-1-yl)-5-methyl-2-phenyl[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)acetate | 0.269 mmol, 106 mg | CC1(CCN(CC1)C1=C(C(=NC=2N1N=C(N2)C2=CC=CC=C2)C)CC(=O)OC)C | C22H27N5O2
reactant | KHMDS | 0.404 mmol, 0.808 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 3-phenyl-2-(phenylsulfonyl)-1,2-oxaziridine | 0.404 mmol, 106 mg | C1(=CC=CC=C1)C1N(O1)S(=O)(=O)C1=CC=CC=C1 | C13H11NO3S
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | methyl 2-(7-(4,4-dimethylpiperidin-1-yl)-5-methyl-2-phenyl-[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)-2-hydroxyacetate | 0.134 mmol, 56 mg, 49.8% yield | CC1(CCN(CC1)C1=C(C(=NC=2N1N=C(N2)C2=CC=CC=C2)C)C(C(=O)OC)O)C | C22H27N5O3
